US06307047B1
2-(4-Fluorophenyl)-4-cyclopropylmethoxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 335, substituting 2-(4-fluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 2-(3-chlorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone and substituting cyclopropylmethanol in place of isobutanol (yield: 0.117 g, 83%). mp 166-167° C. 1H NMR (300 MHz, DMSO d6) δ 0.22 (m, 2H), 0.46 (m, 2H), 1.10 (m, 1H), 3.31 (s, 3H), 4.30 (d, J=7 Hz, 2H), 7.36 (m, 2H), 7.66 (m, 2H), 7.96 (m, 2H), 8.07 (m, 2H), 8.20 (s, 1H). MS (DCI/NH3) m/z 415 (M+H)+, 432 (M+NH4)+. Anal. calc. for C23H25ClN2O4S: C, 60.86; H, 4.62; N, 6.76. Found: C, 60.76; H, 4.72; N, 6.61.

reactant | 2-(4-fluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)OS(=O)(=O)C1=CC=C(C)C=C1)C1=CC=C(C=C1)S(=O)(=O)C | C24H19FN2O6S2
reactant | cyclopropylmethanol | C1(CC1)CO | C4H8O
reactant | NH3 | N | H3N
product | 2-(4-Fluorophenyl)-4-cyclopropylmethoxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)OCC1CC1)C1=CC=C(C=C1)S(=O)(=O)C | C21H19FN2O4S
